US06316468B1
Step 1: 3-(1,2,3,6-Tetrahydropyridin-4-yl)-2-phenyl-1H-indole
2-Phenylindole (25 g, 130 mmol) was stirred at 80° C. in AcOH (200 ml), and 4-piperidone hydrochloride hydrate (50 g, 376 mmol) and 1M phosphoric acid (100 ml) added. After a further 6 h, the mixture was poured into ice/ammonia, and extracted with EtOAc (3×200 ml). The combined organic layers were washed with water and brine, dried, and evaporated in vacuo to give a pale yellow solid. This was suspended in boiling EtOAc (200 ml), cooled to room temperature overnight, and the solid collected, washed with EtOAc and dried to give the title compound (26 g, 73%) as a pale yellow solid; δH (360 MHz, d6-DMSO) 2.00-2.10 (2H, m, NCH2CH2), 2.89 (2H, t, J 5, NCH2CH2), 3.40-3.45 (2H, m, NCH2CH), 5.78 (1H, br s, NCH2CH), 7.00 (1H, t, J 7, indole-H), 7.08 (1H, t, J 7, indole-H), 7.20-7.50 (5H, m, ArH), 7.69 (2H, d, J 7, ArH), 11.3 (1H, br s, indole NH); m/z (ES+) 275 (M++H).

reactant | 2-Phenylindole | 130 mmol, 25 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
reactant | 4-piperidone hydrochloride hydrate | 376 mmol, 50 g | O.Cl.N1CCC(CC1)=O
reactant | phosphoric acid | 1M, 100 ml | P(O)(O)(O)=O | H3O4P
reactant | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | AcOH | 200 ml | CC(=O)O | C2H4O2
product | 3-(1,2,3,6-Tetrahydropyridin-4-yl)-2-phenyl-1H-indole | 26 g, 73% | N1CCC(=CC1)C1=C(NC2=CC=CC=C12)C1=CC=CC=C1 | C19H18N2
